US08802661B2
To a solution of (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-benzyl 9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (3.82 g, 5.76 mmol) in dichloroethane (100 mL) was added triethylamine (1.285 mL, 9.22 mmol), tert-butyldimethylsilane (1.912 mL, 11.52 mmol), and palladium(II) acetate (0.647 g, 2.88 mmol). The mixture was flushed with N2 and was heated to 60° C. After 2 h, the reaction was cooled to rt, was filtered through a pad of celite and silica gel to remove the solids which were washed with 25% EtOAc in hexanes. The filtrate was concentrated under reduced pressure and was treated with 20 mL of acetic acid, 10 mL of THF and 3 mL of water. After stirring for 1 h the solids that formed were collected by filtration and were washed with water to give (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-tert-butyldimethylsilyl 9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate (3.62 g, 5.27 mmol, 91% yield) as a white solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.94 (d, J=8.28 Hz, 2H), 7.21 (d, J=8.28 Hz, 2H), 5.30 (dd, J=6.15, 1.63 Hz, 1H), 4.75 (d, J=1.76 Hz, 1H), 4.62 (s, 1H), 3.92 (s, 4H), 3.08 (td, J=10.92, 4.27 Hz, 1H), 2.35-2.22 (m, 2H), 2.17-2.06 (m, 1H), 2.02-1.84 (m, 2H), 1.71 (s, 3H), 1.01 (s, 6H), 0.99 (br. s., 3H), 0.98 (s, 9H), 0.94 (s, 6H), 1.78-0.90 (m, 16H), 0.32-0.28 (m, 6H).

reactant | (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-benzyl 9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 5.76 mmol, 3.82 g | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)OCC5=CC=CC=C5)C)C)(C)C | C45H58O4
reactant | triethylamine | 9.22 mmol, 1.285 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilane | 11.52 mmol, 1.912 mL | C(C)(C)(C)[SiH](C)C | C6H16Si
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
catalyst | palladium(II) acetate | 2.88 mmol, 0.647 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-tert-butyldimethylsilyl 9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxylate | 5.27 mmol, 3.62 g, 91% yield | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C44H66O4Si
